US04598160
1-Bromo-4,8,12-trimethyltridecane
Into a 250 ml, three-necked, round-bottom flask equipped with a thermometer, serum cap, argon blubber and a magnetic stir bar was added 10 g (40 mmol) of 4,8,12-trimethyltridecanol, 30 ml of purified dimethylformamide (DMF) (stored over calcium sulfate prior to distillation) and 11.2 g (43 mmol) of triphenylphosphine. The solution was cooled to 0° C. before 2.19 ml (43 mmol) of bromine was added via syringe at such a rate that the temperature remained below 30° C. At the end of the addition a persistent orange color remained. The reaction was poured into 200 ml of hexane and 200 ml of water. The aqueous layer was extracted 3×200 ml of hexane. The combined organic layers were rinsed with 300 ml of saturated sodium bicarbonate, 100 ml brine, and were dried with 80 cc of sodium sulfate. The solvent was removed at reduced pressure with a rotary evaporator to afford a mixture of oil and solid. The mixture was triturated with hexane and filtered over a short plug of 40 g of silica gel eluting with hexane. Removal of the solvent left 10.7 g of colorless oil. Distillation through a 10 cm, vacuum jacqueted vigreaux afforded 9.7 g of colorless product, i.e. 1-bromo-4,8,12-trimethyltridecane, bp 119°-20° C. at 0.15 mm Hg.

reactant | 4,8,12-trimethyltridecanol | 40 mmol, 10 g | CC(CCCO)CCCC(CCCC(C)C)C | C16H34O
reactant | calcium sulfate | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | triphenylphosphine | 43 mmol, 11.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 43 mmol, 2.19 ml | BrBr | Br2
solvent | water | 200 ml | O | H2O
solvent | hexane | 200 ml | CCCCCC | C6H14
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-Bromo-4,8,12-trimethyltridecane | BrCCCC(CCCC(CCCC(C)C)C)C | C16H33Br
